US06686356B2
Step 9: Preparation of N-(4-Chlorobenzyl)-1-methyl-9-(morpholin-4-ylmethyl)-2,7-dioxo-2,3-dihydro-1H,7H-pyrido[1,2,3-de]quinoxaline-6-carboxamide
A solution of bromoacetic anhydride (1.03 g, 4 mmol) in THF (3.0 mL) is added over 30 min to a stirred solution of N-(4-chlorobenzyl)-4-hydroxy-8-(methylamino)-6-(4-morpholinylmethyl)-3-quinolinecarboxamide (308 mg of a 1:1 mixture of compound 9 and 4-chlorobenzylamine), triethylamine (500 mg, 5 mmol) in THF (7.0 mL). After 5 h, methanol (20 mL) and triethylamine (300 mg) are added, and the solution is stirred at room temperature overnight. The solution is evaporated, dissolved in chloroform/methanol, and is applied in chloroform to a silica gel column which is eluted with chloroform and then with 5-10% methanol/chloroform to give the title compound (98 mg) which is precipitated from acetonitrile.

reactant | bromoacetic anhydride | 4 mmol, 1.03 g | BrCC(=O)OC(CBr)=O | C4H4Br2O3
reactant | N-(4-chlorobenzyl)-4-hydroxy-8-(methylamino)-6-(4-morpholinylmethyl)-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)CN2CCOCC2)NC)C=C1 | C23H25ClN4O3
reactant | 4-chlorobenzylamine | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
solvent | THF | 7.0 mL | C1CCOC1 | C4H8O
solvent | triethylamine | 300 mg | C(C)N(CC)CC | C6H15N
solvent | methanol | 20 mL | CO | CH4O
solvent | triethylamine | 5 mmol, 500 mg | C(C)N(CC)CC | C6H15N
product | N-(4-Chlorobenzyl)-1-methyl-9-(morpholin-4-ylmethyl)-2,7-dioxo-2,3-dihydro-1H,7H-pyrido[1,2,3-de]quinoxaline-6-carboxamide | 98 mg | ClC1=CC=C(CNC(=O)C=2C(C=3C=4N(CC(N(C4C=C(C3)CN3CCOCC3)C)=O)C2)=O)C=C1 | C25H25ClN4O4
